US04404378
2-Aminocarbonyloxymethyl-6-methyl-4-(2-nitrophenyl)-3,5-diethoxycarbonyl-1,4-dihydropyridine
2-Hydroxymethyl-6-methyl-4-(nitrophenyl)-3,5-diethoxycarbonyl-1,4-dihydropyridine (390 mg) was dissolved in benzene (10 ml), chlorosulfonyl isocyanate (0.2 ml) was added thereto, and the mixture was reacted under stirring at room temperature for 30 minutes. Water (10 ml) was added to the reaction mixture under cooling, and the mixture was stirred at room temperature for 30 minutes for hydrolysis. The reaction mixture thereby obtained was extracted with ethyl acetate, and the extracted solution was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane, whereupon crystals (210 mg, yield: 48.5%) were obtained.

reactant | 2-Hydroxymethyl-6-methyl-4-(nitrophenyl)-3,5-diethoxycarbonyl-1,4-dihydropyridine | 390 mg | OCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O7
reactant | chlorosulfonyl isocyanate | 0.2 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Water | 10 ml | O | H2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-Aminocarbonyloxymethyl-6-methyl-4-(2-nitrophenyl)-3,5-diethoxycarbonyl-1,4-dihydropyridine | 210 mg, yield: 48.5% | NC(=O)OCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C20H23N3O8
